US09422331B2
To a room temperature solution of (3S,4S)-3-amino-4-methyl-5-(tetrahydro-2H-pyran-4-carbonyl)-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one hydrochloride (173 mg, 509 μmol) in N,N-dimethylformamide (2 ml) was added Boc-N-methyl-L-alanine (114 mg, 560 μmol), N,N-diisopropylethylamine (440 μl, 2.55 mmol), and HBTU (212 mg, 560 μmol). The reaction was stirred at room temperature for 2 h. After this time, the reaction was diluted with ethyl acetate (20 mL), washed with a saturated aqueous sodium bicarbonate solution (20 mL) and the aqueous layer was then extracted with ethyl acetate (3×10 mL) and the combined organics were washed with a saturated aqueous sodium chloride solution (20 mL), dried over sodium sulfate, filtered, and the filterate concentrated in vacuo. The crude material was purified using an Initelliflash 280 system (4 g silica gel column Varian brand, 20-90% ethyl acetatehexanes) to afford tert-butyl methyl((S)-1-((2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (238 mg, 96%): LC-MS m/z 487 [M−H]−.

reactant | (3S,4S)-3-amino-4-methyl-5-(tetrahydro-2H-pyran-4-carbonyl)-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one hydrochloride | 509 μmol, 173 mg | Cl.N[C@H]1[C@@H](N(C2=C(NC1=O)C=CC=C2)C(=O)C2CCOCC2)C
reactant | Boc-N-methyl-L-alanine | 560 μmol, 114 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 2.55 mmol, 440 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 560 μmol, 212 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 238 mg, 96% | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(=O)C1CCOCC1)C=CC=C2)=O)C | C25H36N4O6
